US04992547
1-(4-Fluorophenyl)-2-methyl-2-morpholinopropan-1-one
29.43 g (0.15 mol) of 2-(4-fluorophenyl)-3,3-dimethyl-2-methoxyoxirane and 52.3 g (0.60 mol) of morpholine are brought together, and the mixture is heated to reflux temperature (about 130° C.). After 23 hours the excess morpholine is distilled off. The residue is taken up with toluene, and the mixture is extracted with dilute hydrochloric acid. The hydrochloric acid solution is rendered alkaline and is extracted with toluene. The toluene solution is dried with K2CO3 and is concentrated. The residue, 34.0 g, crystallises out from ethyl acetate with a melting point of 63°-66° C.

reactant | 2-(4-fluorophenyl)-3,3-dimethyl-2-methoxyoxirane | 0.15 mol, 29.43 g | FC1=CC=C(C=C1)C1(OC1(C)C)OC | C11H13FO2
reactant | morpholine | 0.60 mol, 52.3 g | N1CCOCC1 | C4H9NO
product | 1-(4-Fluorophenyl)-2-methyl-2-morpholinopropan-1-one | FC1=CC=C(C=C1)C(C(C)(N1CCOCC1)C)=O | C14H18FNO2
